US06809108B1
(2R)-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-{((3R)-1-(2-methylbutyl)-3-piperidyl)methyl}pyrrolidine-2-carboxamide
The title compound was prepared by a method similar to Step 3 of Example 17, using (2R)-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-((3S)-3-piperidylmethyl)pyrrolidine-2-carboxamide and 2-methylbutanal. The compound was obtained as a white solid.

reactant | (2R)-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-((3S)-3-piperidylmethyl)pyrrolidine-2-carboxamide | O[C@@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@@H]1CNCCC1 | C37H44N4O4
reactant | 2-methylbutanal | CC(C=O)CC | C5H10O
product | (2R)-1-{(2S,4R)-4-hydroxy-1-(3,3,3-triphenylpropanoyl)pyrrolidin-2-yl}carbonyl-N-{((3R)-1-(2-methylbutyl)-3-piperidyl)methyl}pyrrolidine-2-carboxamide | O[C@@H]1C[C@H](N(C1)C(CC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(=O)N1[C@H](CCC1)C(=O)NC[C@@H]1CN(CCC1)CC(CC)C | C42H54N4O4
